US07982036B2
Synthesis of (E)-N-(3-(6-(3-chloro-4-(pyridin-2-ylmethoxy)phenylamino)-pyrimidin-4-ylamino)phenyl)-4-(dimethylamino)but-2-enamide (I-19).
3-{[6-(3-chloro-4-(2-pyridyl)methoxyphenylamino)-pyrimidin-4-ylamino]phenylamine (IR-9) was dissolved in N-methylpyrrolidinone (1.2 mL) and added dropwise over 10 minutes to the ice-cold solution of (E)-4-(dimethylamino)but-2-enoyl chloride hydrochloride in acetonitrile. The reaction was stirred in an ice bath for 2 hr. To the mixture was added sodium bicarbonate to pH greater than 9. The oil that formed was extracted with EtOAc (3×25 mL). A portion of the material was insoluble and set aside. The organic layer was dried (MgSO4) filtered and evaporated to a dark red oil. Both oils contained substantial amount of product as shown by TLC:SiO2 CHCl3:MeOH/NH4OH (8:1) 19:1. The oils were combined and purified by flash column chromatography silica gel (25×300 mm) eluted first with 5% methanol/ammonium hydroxide 8/1 to remove non-polar impurities followed by 10% methanol/ammonium hydroxide 8/1 to elute 59 mg of product. The sample was further purified by a second flash column chromatography silica gel (25×250 mm) eluted with 10% methanol/ammonium hydroxide 8/1 to give the title compound (16.3 mg, 0.03 mmol, 6.4% yield). MS (ES+) 530 (M+): 552, (M+Na); 1H NMR (DMSO-d6, 500 MHz) δ (ppm): 10.04 (s, 1H), 9.19 (s, 1H), 9.14 (s, 1H), 8.60 (s, 1H), 8.27 (s, 1H), 7.88 (s, 2H), 7.57 (s, 1H), 7.36 (d, 1H, J=7.4 Hz), 7.29 (d, 2H, J=7.8 Hz), 7.22 (d, 2H, J=7.9 Hz), 7.18 (m, 2H), 6.74 (m, 1H), 6.30 (d, 1H, J=15 Hz) 6.10 (s, 1H), 5.24 (s, 2H), 3.06 (s, 2H), 2.18 (s, 6H) ppm; HPLC: tR=5.15 min, 97.5% (YMC-Pack ODS-A 4.6×100 mm, 80% water/20% acetonitrile to 5% water/95% acetonitrile over 5.5 min, hold to 9 min.).

reactant | [6-(3-chloro-4-(2-pyridyl)methoxyphenylamino)-pyrimidin-4-ylamino]phenylamine | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=CC(=NC=N1)NNC1=CC=CC=C1 | C22H19ClN6O
reactant | (E)-4-(dimethylamino)but-2-enoyl chloride hydrochloride | Cl.CN(C/C=C/C(=O)Cl)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N-methylpyrrolidinone | 1.2 mL | CN1C(CCC1)=O | C5H9NO
solvent | acetonitrile | C(C)#N | C2H3N
product | (E)-N-(3-(6-(3-chloro-4-(pyridin-2-ylmethoxy)phenylamino)-pyrimidin-4-ylamino)phenyl)-4-(dimethylamino)but-2-enamide | 0.03 mmol, 16.3 mg, 6.4% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=CC(=NC=N1)NC=1C=C(C=CC1)NC(\C=C\CN(C)C)=O | C28H28ClN7O2
